US07459554B2
{3-[8-Amino-1-(3-benzyloxyphenyl)-imidazo[1,5-a]pyrazin-3-yl]cyclobutyl}methanol:
{3-[1-(3-Benzyloxyphenyl)-8-chloro-imidazo[1,5-a]pyrazin-3-yl]cyclobutyl}methanol: To a solution of 1-(3-benzyloxyphenyl)-8-chloro-3-(3-methylenecyclobutyl)-imidazo[1,5-a]pyrazine (345 mg, 0.86 mmol) in dry THF (5 mL) was added 9-BBN (2.6 mL, 1.3 mmol, 0.5 M in THF) dropwise at 0° C. under nitrogen atmosphere. The temperature was slowly warmed to rt overnight. Upon which time TLC showed the reaction was complete. The mixture was cooled to 0° C., and 2 mL 1N aq. NaOH and 0.4 mL 30% aq. H2O2 were added, the resulting mixture was stirred at 0° C. for 10 min, then rt for 30 min. The resulting white solid was filtered off, the filtrate was diluted with ethyl acetate (60 mL), washed with brine (3×20 mL), and dried over anhydrous sodium sulfate. The filtrate was concentrated under reduced pressure, and the crude material was purified by silica gel column chromatography (eluting with 100% ethyl acetate), yielding the title compound as a yellow viscous oil, a mixture of cis and trans isomers. MS (ES, Pos.): MS (ES, Pos.): m/z 420/422 (3/1) [MH+]. 1H NMR (CDCl3, 400 MHz) δ 2.32 (br s, 1H), 2.60-2.85 (m, 5H), 3.88-4.11 (m, 3H), 5.36 (s, 2H), 7.27 (m, 1H), 7.48-7.69 (m, 9H), 7.77 (d, J=5.0 Hz, 1H).

reactant | {3-[1-(3-Benzyloxyphenyl)-8-chloro-imidazo[1,5-a]pyrazin-3-yl]cyclobutyl}methanol | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1N=C(N2C1C(=NC=C2)Cl)C2CC(C2)CO | C24H22ClN3O2
reactant | 1-(3-benzyloxyphenyl)-8-chloro-3-(3-methylenecyclobutyl)-imidazo[1,5-a]pyrazine | 0.86 mmol, 345 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1N=C(N2C1C(=NC=C2)Cl)C2CC(C2)=C | C24H20ClN3O
reactant | 9-BBN | 1.3 mmol, 0.5 M, 2.6 mL | B1C2CCCC1CCC2 | C8H15B
reactant | NaOH | 1N, 2 mL | [OH-].[Na+]
reactant | H2O2 | 0.4 mL | OO | H2O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | {3-[8-Amino-1-(3-benzyloxyphenyl)-imidazo[1,5-a]pyrazin-3-yl]cyclobutyl}methanol | NC=1C=2N(C=CN1)C(=NC2C2=CC(=CC=C2)OCC2=CC=CC=C2)C2CC(C2)CO | C24H24N4O2
